US06391878B2
To a solution of 430 mg of 5-amino-4,7-dimethylbenzimidazole in 100 mL of ethyl acetate and 10 mL of methanol are added 19 of ethyl N,N-bis(benzyloxycarbonyl)pseudothiourea and 855 mg of mercuric acetate and the mixture is stirred at room temperature for 15 hours. The mixture is rotary evaporated and the residue is purified by flash column chromatography on silica gel, eluting with 5% methanol/ethyl acetate to provide 1.01 g of 5-[N2,N3-bis(benzyloxycarbonyl)guanidino]-4,7-dimethybenzimidazole as a glassy solid.

reactant | 5-amino-4,7-dimethylbenzimidazole | 430 mg | NC1=C(C2=C(N=CN2)C(=C1)C)C | C9H11N3
reactant | ethyl N,N-bis(benzyloxycarbonyl)pseudothiourea | C(C)N=C(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)S | C19H20N2O4S
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 5-[N2,N3-bis(benzyloxycarbonyl)guanidino]-4,7-dimethybenzimidazole | 1.01 g | C(C1=CC=CC=C1)OC(=O)N=C(NC1=C(C2=C(N=CN2)C(=C1)C)C)NC(=O)OCC1=CC=CC=C1 | C26H25N5O4
